US08604069B2
(A-75-5) Ethyl 3-(2-ethylbutyl)-2-piperidin-1-ylcyclobutanecarboxylate
1-(4-Ethyl-1-hexenyl)piperidine (98.1 g) and acetonitrile (70 mL) were mixed. To the mixture were added ethyl acrylate (53.0 mL) and hydroquinone (271 mg). The mixture was stirred at 100° C. overnight. The reaction mixture was concentrated in vacuo to give the title compound (132 g) as a crude product.

reactant | 1-(4-Ethyl-1-hexenyl)piperidine | 98.1 g | C(C)C(CC=CN1CCCCC1)CC | C13H25N
reactant | ethyl acrylate | 53.0 mL | C(C=C)(=O)OCC | C5H8O2
reactant | hydroquinone | 271 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | Ethyl 3-(2-ethylbutyl)-2-piperidin-1-ylcyclobutanecarboxylate | 132 g | C(C)C(CC1C(C(C1)C(=O)OCC)N1CCCCC1)CC | C18H33NO2
